US04871842
In 50 ml of ethanol is dissolved 0.26 g of benzyl (S,S,S)-2-[N-[(S)-5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl)-L-alanyl]-2-azabicyclo[3,3,0]octane-3-carboxylate, and a catalytic reduction is carried out at ambient temperature and under atmospheric pressure using 0.2 g of 10% palladium-carbon (50% wet) as a catalyst. After the reaction is allowed to proceed for 4 hours, the catalyst is filtered off, and the filtrate is concentrated under reduced pressure to give (S,S,S)-2-[N-[(S)-5-(4-piperidyl)-1-ethoxycarbonylpentyl)-L-alanyl]-2-azabicyclo[3,3,0]octane-3-carboxylic acid as a colorless oil. This product is dissolved in 5 ml of 1N aqueous sodium hydroxide, and the solution is allowed to stand at room temperature for 1 hour, made weakly acidic with 1 ml of acetic acid and purified by XAD-2 column chromatoraphy (0.15M aqueous ammonia-5% acetonitrile). The effluent is concentrated under reduced pressure, and the concentrate is lyophilized to give 0.15 g of (S,S,S)-2 -[N-[(S)-5-(4-piperidyl)-1-carboxypentyl]-L-alanyl]-2-azabicyclo-[3,3,0]octane-3-carboxylic acid as a colorless powder.

reactant | benzyl (S,S,S)-2-[N-[(S)-5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl)-L-alanyl]-2-azabicyclo[3,3,0]octane-3-carboxylate | 0.26 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCC[C@H]2C[C@H]1C(=O)OCC1=CC=CC=C1 | C39H53N3O7
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | (S,S,S)-2-[N-[(S)-5-(4-piperidyl)-1-ethoxycarbonylpentyl)-L-alanyl]-2-azabicyclo[3,3,0]octane-3-carboxylic acid | N1CCC(CC1)CCCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCC[C@H]2C[C@H]1C(=O)O | C24H41N3O5
